US06124323
4-Cyano-1-(2-(4-hydroxyphenoxy)ethyl)-4-phenylpiperidine hydrochloride
The title compound was prepared from 4-cyano-4-phenylpiperidine hydrochloride (600 mg, 2.69 mmol), 2-(4-methoxyphenoxy)ethyl bromide (653 mg, 2.82 mmol) and K2CO3 (761 mg, 5.51 mmol) in two steps as a colorless solid (28 mg, 60%), mp 199-200° C.; 1H NMR (CD3OD) 2.48-2.64 (m, 4H), 3.48-3.64 (m, 2H), 3.73 (t, J=4.8 Hz, 2H), 3.95 (d, J=12 Hz, 2H), 4.36 (t, J=4.5 Hz, 2H), 6.74 (d, J=8.7 Hz, 2H), 6.90 (d, J=9.0 Hz, 2H), 7.38-7.64 (m, 5H); HRMS calcd for C20H22N2O2 322.1681, found 322.1678.

reactant | 4-cyano-4-phenylpiperidine hydrochloride | 2.69 mmol, 600 mg | Cl.C(#N)C1(CCNCC1)C1=CC=CC=C1
reactant | 2-(4-methoxyphenoxy)ethyl bromide | 2.82 mmol, 653 mg | COC1=CC=C(OCCBr)C=C1 | C9H11BrO2
reactant | K2CO3 | 5.51 mmol, 761 mg | C(=O)([O-])[O-].[K+].[K+]
product | 4-Cyano-1-(2-(4-hydroxyphenoxy)ethyl)-4-phenylpiperidine hydrochloride | Cl.C(#N)C1(CCN(CC1)CCOC1=CC=C(C=C1)O)C1=CC=CC=C1 | InChI=1S/C20H22N2O2.ClH/c21-16-20(17-4-2-1-3-5-17)10-12-22(13-11-20)14-15-24-19-8-6-18(23)7-9-19;/h1-9,23H,10-15H2;1H
